US04262005
A mixture of 2-(2,4-dichlorophenylimino)imidazolidine (9.2 g.), sodium hydride (1.3 g. as 80% dispersion in oil) and tetrahydrofuran (65 ml.) was stirred and heated under reflux for 1 hour. The mixture was cooled and a solution of ethyl chloroformate (4.8 g.) in tetrahydrofuran (20 ml.) was added dropwise. The mixture was then stirred and heated under reflux for a further three hours. The mixture was cooled and then poured onto an ice-water mixture to give a solid which was dried over phosphorus pentoxide. Recrystallisation with charcoal from isopropanol gave 2-(2,4-dichlorophenylimino)-1-ethoxycarbonylimidazolidine, m.p. 138°-139° C.

reactant | 2-(2,4-dichlorophenylimino)imidazolidine | 9.2 g | ClC1=C(C=CC(=C1)Cl)N=C1NCCN1 | C9H9Cl2N3
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | ethyl chloroformate | 4.8 g | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 2-(2,4-dichlorophenylimino)-1-ethoxycarbonylimidazolidine | ClC1=C(C=CC(=C1)Cl)N=C1N(CCN1)C(=O)OCC | C12H13Cl2N3O2
